US05346917
A mixture of 1-[[2-(diethylamino)ethyl]amino]-7-methoxy-9-oxothioxanthen-4-carboxaldehyde (3.6 g, 0.0094 mol), formamide (48 mL) nd formic acid (6 mL) was heated to 170° C. under N2 for 8 hours. The mixture was poured into ice-water, basified with 35% NaOH and extracted with chloroform. The organic layer was separated, washed with water (2X), then brine and was dried over Na2SO4 and concentrated in vacuo to afford 3.88 g of N-[[1-[[2-(diethylamino)ethyl]amino]-7-methoxy-9-oxothioxanthen-4-yl]methyl]formamide.

reactant | 1-[[2-(diethylamino)ethyl]amino]-7-methoxy-9-oxothioxanthen-4-carboxaldehyde | 0.0094 mol, 3.6 g | C(C)N(CCNC1=CC=C(C=2SC3=CC=C(C=C3C(C12)=O)OC)C=O)CC | C21H24N2O3S
reactant | formamide | 48 mL | C(=O)N | CH3NO
reactant | NaOH | [OH-].[Na+]
product | N-[[1-[[2-(diethylamino)ethyl]amino]-7-methoxy-9-oxothioxanthen-4-yl]methyl]formamide | 3.88 g | C(C)N(CCNC1=CC=C(C=2SC3=CC=C(C=C3C(C12)=O)OC)CNC=O)CC | C22H27N3O3S
